data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3949,"C[C:1](Br)([CH2:2][H:3])[Br:4].[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5981,"CCCC[O-:1].O.[Li+:2].[Li][O]C(CC(C)C)(C1=CC=CC=C1)C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,98,"CO[C:1](Cl)([NH2+:2]C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4139,"C=[C:1]=[CH:2][Si](C)(C)C.C[O+:3]=[CH:4]CCC1=CC=CC=C1|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,6650,"CCCCC1OC2CC3OC(CO[Si](C)(C)C(C)(C)C)[C:1](=[O+:2][Li-][N:3]([Si](C)(C)C)[Si](C)(C)C)[CH:4]([H:5])CC3OC2(C)CC1CCC|(3, 5);((5, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4371,"CC(=O)[O:1][H:2].CC(N(C)C1=CC=CC=C1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,392,"CC=CCO[S:1](=O)(C1=CC=C(C)C=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8027,"C[S:1](C)(Cl)[O:2]C(=O)C(=O)Cl|((1, 2), 2)"
train,pmechdb_split_0,0,4055,"CCCC(CCC)=[O+:1][Li:2].CC[BH-](CC)CC.[AlH4-]|((2, 1), 1)"
train,pmechdb_split_0,0,2048,"O[C:1]1([OH:2])CCCC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4548,"CC(C)C(C)(C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4039,"CCC(=O)N(C)C(C)C(C1=CC=CC=C1)[O:1][H:2].[Li][N:3](C(C)C)C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1254,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=C[C+:4](CC=CCO)[CH:5]=[CH:6]1|(1, 3);((3, 2), 6);((6, 5), 4)"
train,pmechdb_split_0,0,5629,"C1=CC=C(C[CH:1]=[CH2:2])C=C1.[H:3][F:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6161,"CCO.CCOC(C(O)C1=CC=CC=C1)=[O+:1][H:2].O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,811,"C1C2CC1C[C:1](=[O:2])C2.CC(=O)O.CC(=O)O[BH-](OC(C)=O)OC(C)=O.O=[N+]([O-])C1=CC=C(N2CC[NH:3]CC2)C=C1.[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7935,"CC(=O)[O-].CC1(C)C2CC3=C(CC([N+]4=CC=CC=C4)[C:1](C4=C(F)C=CC=C4)([OH2+:2])[NH:3]3)C1C2.O.[I-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10234,"[S-][CH:1]=[OH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,10004,"COC1=CC=CC(CC[N+:1]([H:2])=[C:3](C)[Cl:4])=C1.O=P(Cl)(Cl)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2645,"O=S(=O)(O)C1=C[C:1](S(=O)(=O)O)([H:2])[CH+:3]O1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,6156,"CCC(C)(C(C)O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2732,"CC1=CC=C(S(=O)(=O)OC(C)CCO[Si-:1](C)(C)(C)[Cl:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,8050,"CCOC(=O)[C:1](C(CC(=O)C1=C(F)C=CC=C1)C1=CC2=C(C=C1)OCO2)([C:2]1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2CCCN21)[O-:3].CC[NH+](CC)CC.F[B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4553,"C1=CC2CCCC23CCCC3([CH:1]=[O+:2][AlH2-:3][H:4])C1.[Br-].[Li+]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1440,"C[C+](C)C.O=C(NC1CCCCC1)C(CC1=CC=C(OCC2=CC=CC=C2)C=C1)[NH2+:1][C:2](=O)[O-:3].O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2542,"C=C(C(=O)OC)[CH:1](C)[O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C1CCC(=O)N1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,3586,"C(C1=CC=CC=C1)#[C:1][H:2].CC[NH:3]CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6179,"CCC[C:1](OC(C)C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9894,"CC(C)C(Cl)CC[C+:1](C)C.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,8053,"CP(C)(=O)[CH2-:1].C[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3291,"C=C(Br)CC1OC1C(C[C+](C[Si:1](C)(C)C)C(C)COCC1=CC=C(OC)C=C1)O[B-](F)(F)F.CC[O:2]CC|(2, 1)"
train,pmechdb_split_0,0,6286,"C[C:1](=[C+:2]CC1C=C([O][Ti-]([Cl])([Cl])([Cl])[Cl])CCCC1)[Si:3](C)(C)C|((1, 3), 2)"
train,pmechdb_split_0,0,9424,"CC(=O)[O:1][C:2](C)(C#CCO)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3811,"C=C(C)CC1C=C(O[Si:1](C)(C)C)CC(C)C1.[Li:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,7178,"CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC.CN1C[CH:1]([O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1=O.O=C(C1=CC=C([N+](=O)[O-])C=C1)[O-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,4191,"CCC(CO)[NH2:1].N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6938,"CC(C)[O:1][C:2](C)(C)[Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7830,"C=C1CCC2CCCC3OC(C)(C)[O+]([Si-:1](C)(C)(C)[O:2]S(=O)(=O)C(F)(F)F)C123|((1, 2), 2)"
train,pmechdb_split_0,0,5054,"CCCCC=CC(C=[O+:1][B-:2](F)(F)F)C(C)OCC|((2, 1), 1)"
train,pmechdb_split_0,0,8812,"C=CCC[C:1](CCCCC(=O)[O:2][H:3])=[C:4](OCC)[O-:5]|(5, 4);((4, 1), 3);((3, 2), 2)"
train,pmechdb_split_0,0,5412,"C[C:1](C#N)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2013,"O=C(C(F)(F)F)[O:1][H:2].[Br][Mg:3][C:4]1=CC=CC=C1|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8310,"C=CCCC(CCCCC(=O)[O-])C(=O)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1353,"CC(C)=CCCC(C)=C[CH2:1][Br:2].C[N+](C)(C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4311,"O[C:1]1([O-:2])C=CCC[O:3]1.[K+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9005,"COC1=CC=CC(CCN[C:1](C)=[O+:2]P(=O)(Cl)Cl)=C1.[Cl-:3]|(3, 1);((1, 2), 2)"
